US05624935
Ethyl 2-azido-3-(2-chloropyridin-3-yl)-3-hydroxypropionate
A mixture of 2.0 g of 2-chloro-3-formylpyridine (prepared as described in Preparation 75), 7.5 g of ethyl azidoacetate and 87 ml of a 65 mM ethanolic solution of sodium ethoxide was stirred at 0° C. for 2 hours. At the end of this time, the reaction mixture was poured into water, after which it was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of ammonium chloride and a saturated aqueous solution of sodium chloride, in that order, and dried over anhydrous sodium sulfate, after which the solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography through silica gel, using a 3:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 2.83 g of the title compound having Rf=0.61 (on silica gel thin layer chromatography using a 2:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | 2-chloro-3-formylpyridine | 2.0 g | ClC1=NC=CC=C1C=O | C6H4ClNO
reactant | ethyl azidoacetate | 7.5 g | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | water | O | H2O
product | Ethyl 2-azido-3-(2-chloropyridin-3-yl)-3-hydroxypropionate | 2.83 g | N(=[N+]=[N-])C(C(=O)OCC)C(O)C=1C(=NC=CC1)Cl | C10H11ClN4O3
